US04710323
4-(3-Amino-4-chlorophenylsulfinyl)-biphenyl
Following the procedure described in Example 40 but using as a starting material instead of (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide a corresponding amount of 4-(4-chloro-3-nitrophenylsulfinyl)-biphenyl, the title compound is obtained.

reactant | (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide | NC1=C(C=C(C=C1)C1=C(C=CC(=C1)C)S(=O)C1=C(C=C(C=C1)C)C1=CC(=C(C=C1)N)[N+](=O)[O-])[N+](=O)[O-] | C26H22N4O5S
reactant | 4-(4-chloro-3-nitrophenylsulfinyl)-biphenyl | ClC1=C(C=C(C=C1)S(=O)C1=CC=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C18H12ClNO3S
product | 4-(3-Amino-4-chlorophenylsulfinyl)-biphenyl | Yield: 85% | NC=1C=C(C=CC1Cl)S(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C18H14ClNOS
